US07238716B2
Methyl 2-[3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]phenyl]acetate (604 mg) was dissolved in methanol-tetrahydrofuran (1:1, 12 mL) and a 1N aqueous sodium hydroxide solution (3 mL) was added. The mixture was stirred at room temperature for 1 hr. The reaction mixture was poured into water, 1N hydrochloric acid (3 mL) was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give crystals of 2-[3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethloxy]phenyl]acetic acid. Recrystallization from ethanol-hexane gave colorless needle crystals (522 mg, 89%). melting point: 128-129° C.

reactant | Methyl 2-[3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethoxy]phenyl]acetate | 604 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC=1C=C(C=CC1)CC(=O)OC | C24H22N2O6
reactant | sodium hydroxide | 1N, 3 mL | [OH-].[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 1N, 3 mL | Cl | ClH
solvent | methanol tetrahydrofuran | 12 mL | CO.O1CCCC1
product | 2-[3-[3-(5-methyl-2-phenyl-4-oxazolylmethoxy)-5-isoxazolylmethloxy]phenyl]acetic acid | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=NOC(=C1)COC=1C=C(C=CC1)CC(=O)O | C23H20N2O6
